US08217043B2
c) 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-(4-chloro-benzyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the acylation condition used in Example 2 step f) from 4-chloro-1-(4-chloro-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester and chlorocarbonyl-acetic acid methyl ester (1.5 eq.). 1H NMR (CDCl3, δ in ppm): 7.26 (d, 2H, J=8.2 Hz), 7.08 (d, 2H, J=8.8 Hz), 6.83 (d, 1H, J=2.2 Hz), 6.47 (d, 1H, J=1.8 Hz), 5.27 (d, 1H, J=14.6 Hz), 4.27 (d, 1H, J=14.6 Hz), 3.75 (s, 3H), 3.69 (s, 3H), 3.18 (m, 2H).

reactant | 4-chloro-1-(4-chloro-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)NCC1=CC=C(C=C1)Cl | C13H12Cl2N2O2
reactant | chlorocarbonyl-acetic acid methyl ester | 1.5 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-(4-chloro-benzyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N(CC1=CC=C(C=C1)Cl)C(CC(=O)OC)=O | C17H16Cl2N2O5
